US05707991
A The reaction is carried out in a way analogous to that described in Example 2A, but from 1.6 g of benzyl (2RS,4RS,5RS)-3-{3-[2-(2-(3,3-dimethylpiperidino)carbonyl-5-(2-fluorophenyl)-4-phenylsulphonyl-1-pyrrolidinyl)-2-oxoethyl]ureido}benzoate and 0.15 g of 10% palladium-on-charcoal in 100 cm3 of ethanol. After treatment, there is obtained 0.35 g of (2RS,4RS,5RS)-3-{3-[2-(2-(3,3-dimethylpiperidino)carbonyl-5-(2-fluorophenyl)-4-phenylsulphonyl-1-pyrrolidinyl)-2-oxoethyl}ureido}benzoic acid, melting at 258° C.

reactant | benzyl (2RS,4RS,5RS)-3-{3-[2-(2-(3,3-dimethylpiperidino)carbonyl-5-(2-fluorophenyl)-4-phenylsulphonyl-1-pyrrolidinyl)-2-oxoethyl]ureido}benzoate | 1.6 g | CC1(CN(CCC1)C(=O)C1N(C(C(C1)S(=O)(=O)C1=CC=CC=C1)C1=C(C=CC=C1)F)C(CNC(NC=1C=C(C(=O)OCC2=CC=CC=C2)C=CC1)=O)=O)C | C41H43FN4O7S
solvent | ethanol | 100 cm3 | C(C)O | C2H6O
catalyst | palladium-on-charcoal | 0.15 g | [Pd] | Pd
product | (2RS,4RS,5RS)-3-{3-[2-(2-(3,3-dimethylpiperidino)carbonyl-5-(2-fluorophenyl)-4-phenylsulphonyl-1-pyrrolidinyl)-2-oxoethyl}ureido}benzoic acid | 0.35 g | CC1(CN(CCC1)C(=O)C1N(C(C(C1)S(=O)(=O)C1=CC=CC=C1)C1=C(C=CC=C1)F)C(CNC(NC=1C=C(C(=O)O)C=CC1)=O)=O)C | C34H37FN4O7S
